US05414016
127 ml of a 1.2 molar solution of diisobutylaluminum hydride in toluene is instilled in a solution of 8.7 g of 2-hydroxymethyl-cyclopentanecarboxylic acid lactone (O. Caamano et al., Euro. J. Med. Chem. 22, 311 (1987)) in 127 ml of toluene at 0° C. under argon and stirred for 50 minutes at 0° C. Then, 25 ml of isopropanol and 63 ml of water are instilled, stirred for 2 hours at 22° C., filtered washed with methylene chloride and concentrated by evaporation in a vacuum. The residue is purified by chromatography on silica gel. With ethyl acetate/hexane (4+1), 7 g of cis-1,2-dihydroxymethyl-cyclopentane is obtained as colorless liquid.

reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | isopropanol | 25 ml | C(C)(C)O | C3H8O
reactant | water | 63 ml | O | H2O
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 127 ml | C1(=CC=CC=C1)C | C7H8
product | cis-1,2-dihydroxymethyl-cyclopentane | 7 g | OC[C@H]1[C@H](CCC1)CO | C7H14O2
